US06706750B1
7,8-Difluoro-1,2,3,4-tetrahydrocyclopent[b]indole
A stirred solution of 7,8-difluoro-1,2,3,3a,4,8a-hexahydro-8a-hydroxy-cyclopent[b]indole (1.1 g, 5.2 mmol), in dichloromethane (150 mL) was cooled to 0° C. Trifluoroacetic acid (20 drops) was added and the reaction mixture was stirred at room temperature for 18 h. The reaction mixture was poured onto saturated sodium hydrogen carbonate solution (20 mL) and extracted with dichloromethane (3×50 mL). The organic extracts were combined, dried (magnesium sulfate), filtered, concentrated in vacuo and purified by column chromatography [SiO2; ethyl acetate-heptane (1:5)]to give the product (0.78 g, 78%) as a white crystalline solid. IR νmax (Nujol)/cm−1 3467, 2925, 2854, 1565, 1515, 1450, 1348, 1327, 1244, 1053, 1025, 977, 857, 783, 630 and 516; NMR δH (400 MHz, CDCl3) 2.49-2.58 (2H, m), 2.79-2.87 (2H, m), 2.9-2.96 (2H, m), 6.81-6.95 (2H, m), and 7.83 (1H), br s).

reactant | 7,8-difluoro-1,2,3,3a,4,8a-hexahydro-8a-hydroxy-cyclopent[b]indole | 5.2 mmol, 1.1 g | FC1=C(C2(C3C(NC2C=C1)CCC3)O)F | C11H13F2NO
reactant | sodium hydrogen carbonate | 20 mL | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
catalyst | Trifluoroacetic acid | 20 drops | FC(C(=O)O)(F)F | C2HF3O2
product | 7,8-Difluoro-1,2,3,4-tetrahydrocyclopent[b]indole | 0.78 g, 78% | FC1=C(C=2C3=C(NC2C=C1)CCC3)F | C11H9F2N
